US06797725B2
To the solution of glycerol (460 mg, 2.5 mmol) in 1.0 mL of pyridine and 2.0 mL of THF was added a suspention of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride in 2.0 mL of THF at 0° C. The reaction mixture was gradually warmed to room temperature, stirred for 2.5 h, and concentrated. The residue was triturated with ethyl acetate and filtered. The solid was then washed with ethyl acetate, water, ether, and dried to yield 87 mg of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2,3-dihydroxy-propyl ester. The combined filtrate was concentrated and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated to give 120 mg of crude product which was suspended in water, filtered, and washed with small amount of ethyl acetate to afford another 67 mg of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2,3dihydroxy-propyl ester. The combined yield is 83%. 1H NMR (400 MHz, CDCl3) δ 12.51 (s, 1H, NH-1′), 7.90-7.92 (m, 1H), 7.45-7.48 (m, 1H), 7.37 (s, 1H, H-vinyl), 7.18-7.24 (m, 2H), 6.04 (d, J=1.96 Hz, 1H, H-4′), 4.68 (dd, J=3.13, 11.24 Hz, 1H, OCH2CH(OH)CH2OH), 4.45 (dd, J=4.89, 11.24 Hz, 1H, OCH2CH(OH)CH2OH), 4.09 (m, br, 1H, OCH2CH(OH)CH2OH), 3.86-3.99 (m, 2H, OCH2CH(OH)CH2OH), 3.60 (d, J=6.65 Hz, 1H, OCH2CH(OH)CH2OH), 3.45 (dd, J=5.52, 7.82 Hz, 1H, OCH2CH(OH)CH2OH), 2.41 (s, 3H, CH3), and 2.32 (s, 3H, CH3). MS m/z (relative intensity, %) 357 (100, [M+1]+.).

reactant | glycerol | 2.5 mmol, 460 mg | OCC(O)CO | C3H8O3
reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)Cl)=O | C16H13ClN2O2
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2,3-dihydroxy-propyl ester | 87 mg | OC(COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O)CO | C19H20N2O5
